US09227985B2
Step 1. 2-Pyridin-2-ylquinoline
A solution of 2-bromoquinoline (1.00 g, 4.81 mmol) [Aldrich, cat. #716278] in N,N-dimethylformamide (10.0 mL) (degassed with nitrogen) was treated with 2-(tributylstannyl)pyridine (1.83 mL, 4.81 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.337 g, 0.481 mmol). The reaction mixture was degassed with nitrogen for 5 min and heated at 110° C. for 17 h. The reaction mixture was then diluted with water (50 mL) and ether (50 mL) and filtered over Celite. The solids were washed with additional ether (150 mL). The filtrate was washed with water (150 mL) and brine, dried over sodium sulfate, filtered, and concentrated to give a crude residue. Purification by flash column chromatography (100% hexanes to 70% ethyl acetate/hexanes, the ethyl acetate containing 5% methanol) gave the desired product (0.771 g, 78%). LCMS calculated for C14H11N2 (M+H)+: m/z=207.1. found: 207.1.

reactant | 2-bromoquinoline | 4.81 mmol, 1.00 g | BrC1=NC2=CC=CC=C2C=C1 | C9H6BrN
reactant | 2-(tributylstannyl)pyridine | 4.81 mmol, 1.83 mL | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.481 mmol, 0.337 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Pyridin-2-ylquinoline | 0.771 g, 78% | N1=C(C=CC=C1)C1=NC2=CC=CC=C2C=C1 | C14H10N2
